US06211215B1
Diethyl azodicarboxylate (1.20 g) was added dropwise to a stirred mixture of 2-(2-thienyl-4-oxazolyl)ethanol (700 mg). 1-[3-(4-hydroxyphenyl)propyl]imidazole (670 mg), triphenylphosphine (1.73 g), and tetrahydrofuran (50 ml) at room temperature. After refluxing for 3 h, the reaction mixture was concentrated. The residue was purified by silica gel column chromatography. From the fraction eluted with ethyl acetate-methanol (100:1, v/v) 4-[2-[4-[3-(1-imidazolyl)propyl]phenoxy]ethyl]-2-(2-thienyl)oxazole (690 mg, 55%) was obtained. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 77-78° C.

reactant | Diethyl azodicarboxylate | 1.20 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(2-thienyl-4-oxazolyl)ethanol | 700 mg | S1C(=CC=C1)C=1OC=C(N1)CCO | C9H9NO2S
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | 670 mg | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | triphenylphosphine | 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[2-[4-[3-(1-imidazolyl)propyl]phenoxy]ethyl]-2-(2-thienyl)oxazole | 690 mg, 55% | N1(C=NC=C1)CCCC1=CC=C(OCCC=2N=C(OC2)C=2SC=CC2)C=C1 | C21H21N3O2S
